US07109354B2
b) [(4-{4′-(N′, N″-di-tert-butoxycarbonyl-guanidino)-6′-methyl-2′-[3-(2-phenylamino-ethyl)-ureido]-biphenyl-3-sulfonyl}-5-methylsulfanyl-thiophen-2-yl)-imino-methyl]-carbamic acid tert-butylester
1,3-Bis-t-butoxycarbonyl-2-methyl-2-thiopseudourea (0.033 g, 0.114 mmol) was added to a solution of [(4-{4′-amino-6′-methyl-2′-[3-(2-phenylamino-ethyl)-ureido]-biphenyl-3-sulfonyl}-5-methylsulfanyl-thiophen-2-yl)-imino-methyl]-carbamic acid tert-butyl ester [example 216, step a] in methanol [1 mL] and 1 drop of acetic acid. The reaction was stirred at room temperature for 1 hour and evaporated. The reaction was evaporated and column chromatography (25% EtOAc in hexanes) of the residue yielded the title compound (0.072 g, 68%) as a solid. ESI-MS (m/z): Calcd. for C44H56N8O9S3: 936.33; found: 936.9.

reactant | 1,3-Bis-t-butoxycarbonyl-2-methyl-2-thiopseudourea | 0.114 mmol, 0.033 g | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
reactant | [(4-{4′-amino-6′-methyl-2′-[3-(2-phenylamino-ethyl)-ureido]-biphenyl-3-sulfonyl}-5-methylsulfanyl-thiophen-2-yl)-imino-methyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(=N)C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1C)N)NC(=O)NCCNC1=CC=CC=C1)SC)=O | C33H38N6O5S3
solvent | methanol | 1 mL | CO | CH4O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | [(4-{4′-(N′, N″-di-tert-butoxycarbonyl-guanidino)-6′-methyl-2′-[3-(2-phenylamino-ethyl)-ureido]-biphenyl-3-sulfonyl}-5-methylsulfanyl-thiophen-2-yl)-imino-methyl]-carbamic acid tert-butylester | 0.072 g, 68% | C(C)(C)(C)OC(NC(=N)C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1C)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)NC(=O)NCCNC1=CC=CC=C1)SC)=O | C44H56N8O9S3
